US07915267B2
2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridine-4-carbonitrile
By a method similar to that in Reference Example 17 and using, instead of 2-(1H-1,2,4-triazol-3-ylthio)ethanol, 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propan-1-ol obtained in Reference Example 26, the title compound was obtained as a white powder (314 mg, 88%).

reactant | 2-(1H-1,2,4-triazol-3-ylthio)ethanol | N1N=C(N=C1)SCCO | C4H7N3OS
reactant | 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propan-1-ol | C1(=CC=CC=C1)C(N1N=C(N=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O
product | 2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridine-4-carbonitrile | C1(=CC=CC=C1)C(N1N=C(N=C1)CCCOC1=NC=CC(=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H25N5O
